US05356917
5-{[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene}-3-ethyl-4-thiazolidinone
To a solution of 9.58 g of 5-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene}-4-thiazolidinone in 150 ml of tetrahydrofuran were added 1.20 g of a 60% dispersion of sodium hydride in mineral oil. After gas evolution ceased, 2.4 ml of ethyl iodide were added and the reaction mixture was stirred for two days under an argon atmosphere. The mixture was heated at reflux for six hours, cooled, diluted with diethyl ether and water, and adjusted to pH 3 with 1N hydrochloric acid. The layers were separated, and the organic layer was washed with a saturated sodium bicarbonate solution followed by a saturated sodium chloride solution. Concentration of the dried organic solution and chromatography of the resulting residue over silica gel eluting with a 10-30% ethyl acetate in hexane gradient provided 3.65 g of the desired title product, m.p. 169°-172.5° C.

reactant | 5-{[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene}-4-thiazolidinone | 9.58 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NCS1)=O | C18H25NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | 2.4 ml | C(C)I | C2H5I
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 5-{[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene}-3-ethyl-4-thiazolidinone | 3.65 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N(CS1)CC)=O | C20H29NO2S
